US07153875B2
To a mixture of 2-phenyl-4-bromoanisole (26.00 g, 0.0988 mol) in THF (240 mL) cooled to −75° C. under an atmosphere of argon was added n-BuLi (68 mL, 1.6 M, 0.109 mol) dropwise maintaining a temperature below −70° C. The resulting suspension was stirred for 30 minutes and triisopropylborate (34.2 mL, 27.87 g, 0.148 mol) was added dropwise. The mixture was warmed to 0° C. over 1 hour and 1.0 N HCl (190 mL) was slowly added and allowed to warm to RT overnight. The mixture was diluted with ether and the layers separated, the aqueous layer was extracted ether (3×) and the organic layers combined. The resulting organic layer was washed with water, brine and dried (Mg2SO4). The mixture was filtered, evaporated and the resulting reddish residue solidified overnight. The solid was collected and washed with hexane and dried under high vacuum to afford 17.29 g of 3-phenyl-4-methoxyphenyl boronic acid (77%). 1H NMR (300 MHz; DMSO-d6): δ 3.78 (s, 3H), 7.07 (d, J=8.1 Hz, 1H), 7.28–7.50 (m, 5H), 7.72–7.80 (m, 2H), 7.92 (brs, 2H).

reactant | 2-phenyl-4-bromoanisole | 0.0988 mol, 26.00 g | C1(=CC=CC=C1)C1=C(C=CC(=C1)Br)OC | C13H11BrO
reactant | n-BuLi | 0.109 mol, 1.6 M, 68 mL | [Li]CCCC
reactant | triisopropylborate | 0.148 mol, 34.2 mL, 27.87 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1.0 N, 190 mL | Cl | ClH
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-phenyl-4-methoxyphenyl boronic acid | 17.29 g, 77% | C1(=CC=CC=C1)C=1C=C(C=CC1OC)B(O)O | C13H13BO3
